US05294610
12.9 g (75 mmole) of 3-bromo-4-picoline was added to a purple solution of 23.7 g (0.15 mole) of potassium permanganate in 600 mL of water. This mixture was vigorously stirred 36 hrs. at 45° C. The resulting black solid was filtered and washed with 4×50 mL of hot water. The filtrate was concentrated to ~50 mL. A viscous liquid with black solid resulted. This was filtered through celite, which was washed with 3×20 mL of water. 150 mL of ice cold 2N hydrochloric acid was added. The resulting voluminous white precipitate was filtered and the solid was dried in vacuo to give 3-bromoisonicotinic acid as white powder.

reactant | 3-bromo-4-picoline | 75 mmole, 12.9 g | BrC=1C=NC=CC1C | C6H6BrN
reactant | potassium permanganate | 0.15 mole, 23.7 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 600 mL | O | H2O
product | 3-bromoisonicotinic acid | BrC1=C(C(=O)O)C=CN=C1 | C6H4BrNO2
